US05272147
4-(5-Acetyl-2-ethoxybenzamido)-1-methyl-3-n-propylpyrazole-5-carboxamide
The title compound was prepared form 5-acetyl-2-ethoxybenzoyl chloride and 4-amino-1-methyl-3-n-propylpyrazole-5-carboxamide following the procedure of Preparation 6, and was obtained as a white solid (60%), m.p. 225°-227° C. Found: C,61.35; H,6.25; N,15.07. C19H24N4O4 requires C,61.28; H,6.50; N,15.04%

reactant | 5-acetyl-2-ethoxybenzoyl chloride | C(C)(=O)C=1C=CC(=C(C(=O)Cl)C1)OCC | C11H11ClO3
reactant | 4-amino-1-methyl-3-n-propylpyrazole-5-carboxamide | NC=1C(=NN(C1C(=O)N)C)CCC | C8H14N4O
product | 4-(5-Acetyl-2-ethoxybenzamido)-1-methyl-3-n-propylpyrazole-5-carboxamide | C(C)(=O)C=1C=CC(=C(C(=O)NC=2C(=NN(C2C(=O)N)C)CCC)C1)OCC | C19H24N4O4
